US09023846B2
A solution of 6-chloro-2-(4-methyl-piperazin-1-yl)-3-nitro-pyridin-4-ylamine (578 mg, 2.13 mmol, prepared as described in the previous step) in 1,4-dioxane (20 mL) was treated with K3PO4 (2.03 g, 9.58 mmol), 1,1′-bis(di-tert-butylphosphino)ferrocene (101 mg, 0.213 mmol), and 2-trifluoromethylphenylboronic acid (910 mg, 4.79 mmol). The resulting mixture was degassed via sonication, Pd(OAc)2 (47.8 mg, 0.213 mmol) was added, and the mixture was heated to 80° C. for 18 h. The cooled mixture was diluted with water (50 mL) and extracted twice with EtOAc (60 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 40-g SEPRA Si 50 SPE column (Isco system: Flow rate=20 mL/min; Eluent=EtOAc-hexanes, 3:1 v/v for 5 min, then 3:1 to 1:0 v/v over 40 min) to yield 2-(4-methyl-piperazin-1-yl)-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-ylamine as an orange solid. 1H-NMR (400 MHz, CDCl3) δ: 7.74 (d, J=7.6 Hz, 1H), 7.55-7.61 (m, 1H), 7.45-7.54 (m, 2H), 6.13 (s, 1H), 6.02 (br. s., 2H), 3.46-3.52 (m, 4H), 2.44-2.50 (m, 4H), 2.32 (s, 3H). Mass Spectrum (LCMS, APCI pos.): Calculated for C17H18F3N5O2: 382.1 (M+H); Measured: 382.1.

reactant | 6-chloro-2-(4-methyl-piperazin-1-yl)-3-nitro-pyridin-4-ylamine | ClC1=CC(=C(C(=N1)N1CCN(CC1)C)[N+](=O)[O-])N | C10H14ClN5O2
reactant | K3PO4 | 9.58 mmol, 2.03 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-trifluoromethylphenylboronic acid | 4.79 mmol, 910 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene | 0.213 mmol, 101 mg | C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
catalyst | Pd(OAc)2 | 0.213 mmol, 47.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(4-methyl-piperazin-1-yl)-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-ylamine | CN1CCN(CC1)C1=NC(=CC(=C1[N+](=O)[O-])N)C1=C(C=CC=C1)C(F)(F)F | C17H18F3N5O2
